.SUBCKT sg13g2_o21a_2 X A1 A2 B1 VDD VSS
*.PININFO A1:I A2:I B1:I X:O VDD:B VSS:B
MN0 net1 A1 net2 VSS sg13_lv_nmos m=1 w=740.00n l=130.00n ng=1
MN1 net1 A2 net2 VSS sg13_lv_nmos m=1 w=740.00n l=130.00n ng=1
MN2 net2 B1 VSS VSS sg13_lv_nmos m=1 w=740.00n l=130.00n ng=1
MP0 net1 A1 net3 VDD sg13_lv_pmos m=1 w=1.12u l=130.00n ng=1
MP1 net3 A2 VDD VDD sg13_lv_pmos m=1 w=1.12u l=130.00n ng=1
MP2 net1 B1 VDD VDD sg13_lv_pmos m=1 w=1.12u l=130.00n ng=1
MN3 X net1 VSS VSS sg13_lv_nmos m=1 w=1.48u l=130.00n ng=2
MP3 X net1 VDD VDD sg13_lv_pmos m=1 w=2.24u l=130.00n ng=2
.ENDS
